US07553836B2
Step B. Preparation of 7-Bromo-2-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-3,4-dihydropyrrolo[1,2-a]pyrazin-1(2H)-one
A mixture of 4-bromo-N-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-1H-pyrrole-2-carboxamide (1.50 g, 3.92 mmol), 1,2-dibromoethane (1.68 mL, 19.6 mmol), NBu4Br (1.26 g, 3.93 mmol) and 1N NaOH (19.6 mL, 19.6 mmol) in dichloroethane (19.6 mL) was allowed to stir at 50° C. for 16 h. The reaction mixture was cooled to rt, diluted with EtOAc (150 mL), washed with water, brine, dried over anhydrous Na2SO4 and concentrated. To the resulting brown oil was triturated with EtOAc (25 mL) to give 643 mg of the title compound as a light gray solid: 1H NMR (500 MHz, CDCl3) δ 1.34 (s, 6H), 2.67 (br. s., 1H), 3.83 (s, 2H), 3.85 (s, 3H), 4.04-4.08 (m, 2H), 4.22-4.26 (m, 2H), 6.78 (t, J=5.5 Hz, 2H), 6.90-6.95 (m, 2H), 6.99 (s, 1H); HPLC a) column: Phenomenex Luna 5μ 4.6×50 mm, 4 min gradient, 10% MeOH/90% H2O/0.1% H3PO4 to 90% MeOH/10% H2O/0.1% H3PO4; 1 min hold, 4 mL/min UV detection at 220 nm, 2.730 min retention time, (99%); HPLC b) column: Phenomenex Luna C18 4.6×50 mm, 4 min gradient, 10% MeOH/90% H2O/0.1% TFA to 90% MeOH/10% H2O/0.1% TFA, 1 min hold; 4 mL/min, UV detection at 220 nm, 2.748 min retention time; MS (ES) 409 [M+H]+

reactant | 4-bromo-N-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-1H-pyrrole-2-carboxamide | 3.92 mmol, 1.50 g | BrC=1C=C(NC1)C(=O)NC1=CC(=C(C=C1)OCC(C)(C)O)OC | C16H19BrN2O4
reactant | 1,2-dibromoethane | 19.6 mmol, 1.68 mL | BrCCBr | C2H4Br2
reactant | NaOH | 19.6 mmol, 1N, 19.6 mL | [OH-].[Na+]
solvent | dichloroethane | 19.6 mL | ClC(C)Cl | C2H4Cl2
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 7-Bromo-2-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-3,4-dihydropyrrolo[1,2-a]pyrazin-1(2H)-one | 643 mg | BrC=1C=C2N(CCN(C2=O)C2=CC(=C(C=C2)OCC(C)(C)O)OC)C1 | C18H21BrN2O4
